data/polar.json
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:11]1[N+:18](=[CH:5][CH:33]=[CH:12][c:25]2[cH:6][cH:19][cH:4][cH:20][cH:7]2)[CH:17]([CH2:34][c:29]2[cH:36][cH:14][cH:21][cH:15][cH:37]2)[C:23](=[O:8])[N:30]1[CH3:22])([CH3:26])([CH3:27])[CH3:28].[S:2]1(=[O:38])(=[O:39])[c:24]2[c:9]([cH:16][cH:3][cH:31][cH:13]2)[C:35]([O-:10])=[N:32]1>>[C:1]([CH:11]1[N:18]([CH:5]=[CH:33][CH:12]([c:25]2[cH:6][cH:19][cH:4][cH:20][cH:7]2)[N:32]2[S:2](=[O:38])(=[O:39])[c:24]3[c:9]([cH:16][cH:3][cH:31][cH:13]3)[C:35]2=[O:10])[CH:17]([CH2:34][c:29]2[cH:36][cH:14][cH:21][cH:15][cH:37]2)[C:23](=[O:8])[N:30]1[CH3:22])([CH3:26])([CH3:27])[CH3:28]", "epd": [["LP-/Pi+", [10], [35, 10]], ["Pi-/Sigma+", [32, 35], [32, 12]], ["Pi-/Pi+", [12, 33], [33, 5]], ["Pi-/LP+", [5, 18], [18]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:2][n+:8]1[o:21][n:14][c:10]2[c:12]3[n+:7]([O-:15])[o:3][n:19][c:13]3[c:16]([N+:6]([O-:20])=[O:23])[cH:11][c:24]12.[S:1]([c:4]1[cH:25][cH:17][cH:9][cH:18][cH:26]1)([O-:5])=[O:22]>>[S+:1]([c:4]1[cH:25][cH:17][cH:9][cH:18][cH:26]1)([O-:5])([CH:11]1[C:16](=[N+:6]([O-:20])[O-:23])[c:13]2[c:12]([n+:7]([O-:15])[o:3][n:19]2)-[c:10]2[n:14][o:21][n+:8]([O-:2])[c:24]21)=[O:22]", "epd": [["LP-/Sigma+", [1], [1, 11]], ["Pi-/Pi+", [11, 16], [16, 6]], ["Pi-/LP+", [6, 23], [23]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[Li+:15].[c:1]1([CH3:24])[o:16][c:6]([B-:20]23[O:3][CH2:12][C:10]([CH3:7])([CH2:13][O:4]2)[CH2:14][O:5]3)[cH:11][cH:21]1.[cH:2]1[cH:8][cH:22][c:19]([N+:17](=[CH2:18])[CH3:25])[cH:23][cH:9]1>>[Li+:15].[O:3]1[CH2:12][C:10]2([CH3:7])[CH2:13][O:4][B:20]1[O:5][CH2:14]2.[c:1]1([CH3:24])[o:16][c:6]([CH2:18][N:17]([c:19]2[cH:22][cH:8][cH:2][cH:9][cH:23]2)[CH3:25])[cH:11][cH:21]1", "epd": [["Sigma-/Sigma+", [6, 20], [6, 18]], ["Pi-/LP+", [18, 17], [17]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:1]1([Cl:8])([Cl:9])[CH:19]=[C:25]([Cl:27])[c:29]2[cH:5][cH:14][cH:23][n:7][c:18]2[C:22]1=[O:17].[cH:2]1[cH:10][c:28]([CH:4]=[C:33]2[CH:30]=[CH:15][C:24](=[N+:26]([O-:20])[O-:21])[CH:16]=[CH:31]2)[cH:11][cH:3][c:12]1[N+:32](=[O:6])[O-:13]>>[c:1]1([Cl:9])[cH:19][c:25]([Cl:27])[c:29]2[cH:5][cH:14][cH:23][n:7][c:18]2[c:22]1[O-:17].[cH:2]1[cH:10][c:28]([CH:4]([Cl:8])[c:33]2[cH:30][cH:15][c:24]([N+:26](=[O:20])[O-:21])[cH:16][cH:31]2)[cH:11][cH:3][c:12]1[N+:32](=[O:6])[O-:13]", "epd": [["LP-/Pi+", [20], [26, 20]], ["Pi-/Pi+", [24, 26], [15, 24]], ["Pi-/Pi+", [30, 15], [33, 30]], ["Pi-/Sigma+", [4, 33], [4, 8]], ["Sigma-/Pi+", [8, 1], [1, 22]], ["Pi-/LP+", [22, 17], [17]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[C:1]12=[N:3][CH2:7][CH2:22][CH2:20][N:8]1[c:4]1[c:13]([cH:2][cH:33][cH:21][cH:28]1)[S:9]2.[S:5]([c:11]1[cH:24][cH:16][cH:14][cH:19][cH:27]1)([C:23]([S:6]([c:12]1[cH:25][cH:17][cH:15][cH:18][cH:26]1)(=[O:29])=[O:30])=[CH2:10])(=[O:31])=[O:32]>>[c:1]12[n+:8]([c:4]3[c:13]([cH:2][cH:33][cH:21][cH:28]3)[s:9]1)[CH2:20][CH2:22][CH2:7][N:3]2[CH2:10][C-:23]([S:5]([c:11]1[cH:24][cH:16][cH:14][cH:19][cH:27]1)(=[O:31])=[O:32])[S:6]([c:12]1[cH:25][cH:17][cH:15][cH:18][cH:26]1)(=[O:29])=[O:30]", "epd": [["LP-/Pi+", [8], [1, 8]], ["Pi-/Sigma+", [3, 1], [3, 10]], ["Pi-/LP+", [10, 23], [23]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[N:2]1=[C:3]([CH3:7])[O:18][CH2:12][CH2:15]1.[cH:1]1[cH:4][cH:14][cH:6][c:8]2[c:5]1[N+:20]([CH3:10])=[CH:13][C:11]2=[CH:9][c:19]1[cH:16][cH:21][cH:23][cH:22][cH:17]1>>[cH:1]1[cH:4][cH:14][cH:6][c:8]2[c:5]1[n:20]([CH3:10])[cH:13][c:11]2[CH:9]([N:2]1[C:3]([CH3:7])=[O+:18][CH2:12][CH2:15]1)[c:19]1[cH:16][cH:21][cH:23][cH:22][cH:17]1", "epd": [["LP-/Pi+", [18], [3, 18]], ["Pi-/Sigma+", [2, 3], [2, 9]], ["Pi-/Pi+", [9, 11], [11, 13]], ["Pi-/LP+", [13, 20], [20]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[c:1]1([P:20]([c:2]2[cH:9][cH:26][cH:5][cH:27][cH:10]2)([c:3]2[cH:11][cH:28][cH:6][cH:29][cH:12]2)=[CH:35][C:23]([O:21][CH2:14][CH3:38])=[O:22])[cH:7][cH:24][cH:4][cH:25][cH:8]1.[n+:13]1([CH3:30])[c:15]2[cH:31][cH:36][cH:33][cH:17][c:39]2[cH:19][c:40]2[c:16]1[cH:32][cH:37][cH:34][cH:18]2>>[c:1]1([P+:20]([c:2]2[cH:9][cH:26][cH:5][cH:27][cH:10]2)([c:3]2[cH:11][cH:28][cH:6][cH:29][cH:12]2)[CH:35]([CH:19]2[c:39]3[c:15]([cH:31][cH:36][cH:33][cH:17]3)[N:13]([CH3:30])[c:16]3[cH:32][cH:37][cH:34][cH:18][c:40]32)[C:23]([O:21][CH2:14][CH3:38])=[O:22])[cH:7][cH:24][cH:4][cH:25][cH:8]1", "epd": [["Pi-/Sigma+", [35, 20], [35, 19]], ["Pi-/Pi+", [19, 39], [39, 15]], ["Pi-/LP+", [15, 13], [13]]]}
